US05158942
a) 1-Decyloxy-2,3-epoxypropane
4.23 ml. (0.05 mole) epibromohydrin in a two-phase mixture of 150 ml. dichloromethane, 150 ml. 50% aqueous sodium hydroxide solution and 3.4 g. tetrabutylammonium hydrogen sulphate are mixed at ambient temperature with 9.52 ml. (0.05 mole) decan-1-ol and stirred overnight. The reaction mixture is then diluted with water and the organic phase is separated off, washed with water and evaporated. The oily residue is purified by column chromatography on silica gel with diethyl ether/isohexane (1:15 v/v). Yield 5.0 g. (47% of theory).

reactant | epibromohydrin | 0.05 mole | C(Br)C1CO1 | C3H5BrO
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | decan-1-ol | 0.05 mole | C(CCCCCCCCC)O | C10H22O
catalyst | tetrabutylammonium hydrogen sulphate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-Decyloxy-2,3-epoxypropane | C(CCCCCCCCC)OCC1CO1 | C13H26O2
